US04079179
A solution of p-nitrobenzyl 7-azido-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate (249 mg., 0.54 mMol) in CHCl3 (5 ml.) is cooled in an ice-bath and treated with Et3N (150 μl, 1.08 mMol). H2S is bubbled through the cold solution for 2-3 mins., followed by N2 for 10 mins. The resulting solution is diluted with cold CH2Cl2 (5 ml.), washed with cold dilute HCl to pH 6, cold H2O (3x) and brine, dried with MgSO4, filtered, and evaporated in vacuo to provide a mixture (245 mg.) of p-nitrobenzyl 7β-amino-6α-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate and the corresponding 7α-amino-derivative as a yellow foam.

reactant | p-nitrobenzyl 7-azido-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate | 0.54 mMol, 249 mg | N(=[N+]=[N-])C1[C@@]2(N(C(=C(CS2)COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)OC | C18H17N5O8S
reactant | Et3N | 1.08 mMol, 150 μl | CCN(CC)CC | C6H15N
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | p-nitrobenzyl 7β-amino-6α-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate | 245 mg | N[C@H]1[C@@]2(N(C(=C(CS2)COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)OC | C18H19N3O8S
